US05428038
7-ethoxy-6-hydroxy-2H-1-benzopyran-2-one.
110 g (300 mmol) esculine×1.5 H2O, 70 g (450 mmol) ethyl iodide and 82.8 g (600 mmol) of potassium carbonate are agitated in 400 ml DMF for 30 h at 85° C. This was followed by filtration, reduction of the filtrate to approximately 250 ml, the addition of approximately 200 ml ethanol and crystallization at 0° C. The crystals were boiled in 800 ml of 2N sulfuric acid for 5 h under reflux. The product was vacuum filtered, washed with water and recrystallized from water and ethanol: yield 43.2 g (70%), fusion point 145° to 146° C.

reactant | esculine | 300 mmol, 110 g | C1=CC(=O)OC2=CC(=C(C=C21)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O | C15H16O9
reactant | H2O | O | H2O
reactant | ethyl iodide | 450 mmol, 70 g | C(C)I | C2H5I
reactant | potassium carbonate | 600 mmol, 82.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 7-ethoxy-6-hydroxy-2H-1-benzopyran-2-one | C(C)OC1=CC2=C(C=CC(O2)=O)C=C1O | C11H10O4
